US07553848B2
6-Bromo-naphthalene-2-carboxylic acid (1H-benzoimidazol-5-yl)-amide.
This material was prepared analogous to the procedure described for Example 1 (b). 6-Bromo-naphthalene-2-carbonyl chloride, Example 1(a), reacted with 1H-benzoimidazol-5-ylamine (TimTec) to give the title compound as an amorphous solid. MS (ESI, pos. ion.) m/z: 366 (M+1).

reactant | 6-Bromo-naphthalene-2-carbonyl chloride | BrC=1C=C2C=CC(=CC2=CC1)C(=O)Cl | C11H6BrClO
reactant | 1H-benzoimidazol-5-ylamine | N1C=NC2=C1C=CC(=C2)N | C7H7N3
product | 6-Bromo-naphthalene-2-carboxylic acid (1H-benzoimidazol-5-yl)-amide | N1C=NC2=C1C=CC(=C2)NC(=O)C2=CC1=CC=C(C=C1C=C2)Br | C18H12BrN3O
